US05789591
4a. 2-allyl-2-(4-t-Butoxy-5-fluoro-3-methyl-2-pyridinyl)-acetaldehyde
To a solution of LDA (1.75 mmol, prepared from diisopropylamine (0.23 mL) and n-BuLi (2.5 M in hexanes, 0.70 mL) in THF (2.0 mL) at 0° C. was added N-(ethylidene)-cyclohexylamine (1.70 mmol, prepared in situ from acetaldehyde and cyclohexylamine) dropwise, and the reaction mixture was warmed to room temperature and stirred for 15 minutes. To this solution was added 4-t-butoxy-5-fluoro-3-methylpyridine (0.10 mL, 0.50 mmol) in THF (0.5 mL) dropwise and the mixture was stirred for 1 hour. To this mixture was added allyl bromide (0.15 mL, 1.75 mmol) dropwise., The exothermic reaction was stirred for 20 minutes, then quenched with water (3 mL). The mixture was then diluted with acetic acid (1M, 20 mL) and hexanes (20 mL) and stirred vigorously for 1 hour. The mixture was extracted with ether, and the organic layer was separated, washed with water, saturated NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by chromatography on silica gel, eluting with 5% to 10% ethyl acetate in hexanes, to afford the title compound (0.095 g, 73% yield) as an oil. MS 266 (M+H)+ ; 1H NMR (CDCl3) δ1.41 (d, 9H, J=1.1 Hz), 2.25 (s, 3H), 2.55-2.67 (m, 1H), 2.81-2.93 (m, 1H), 3.85 (m, 1H), 4.93-5.04 (m, 2H), 5.65-5.80 (m, 1H), 8.27 (d, 1H, J=1.8 Hz), 9.74 (m, 1H).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 0.23 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M, 0.70 mL | [Li]CCCC
reactant | N-(ethylidene)-cyclohexylamine | 1.70 mmol | C(C)=NC1CCCCC1 | C8H15N
reactant | 4-t-butoxy-5-fluoro-3-methylpyridine | 0.50 mmol, 0.10 mL | C(C)(C)(C)OC1=C(C=NC=C1F)C | C10H14FNO
reactant | allyl bromide | 1.75 mmol, 0.15 mL | C(C=C)Br | C3H5Br
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-allyl-2-(4-t-Butoxy-5-fluoro-3-methyl-2-pyridinyl)-acetaldehyde | 0.095 g, 73% yield | C(C=C)C(C=O)C1=NC=C(C(=C1C)OC(C)(C)C)F | C15H20FNO2
